US06008229
To a mixture of quinoline-5-carboxylic acid (4 g) in acetic acid (40 ml) was added borane-pyridine complex (8.59 g) at ambient temperature. After stirred for 18 hours, to the reaction mixture was added 1N hydrochloric acid and heated at 90° C. for 1 hour. The mixture was neutralized with aqueous sodium bicarbonate solution and ethyl acetate was added thereto. The precipitate was filtered off. The organic layer was separated, washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash silica gel chromatography eluted with chloroform-methanol and crystallized from diisopropyl ether to give 1,2,3,4-tetrahydroquinoline-5-carboxylic acid (1.12 g) as pale brown crystals.

reactant | quinoline-5-carboxylic acid | 4 g | N1=CC=CC=2C(=CC=CC12)C(=O)O | C10H7NO2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4-tetrahydroquinoline-5-carboxylic acid | 1.12 g | N1CCCC=2C(=CC=CC12)C(=O)O | C10H11NO2
